US06617325B1
(42) methyl 2-ethyl-2-phenyl-5-{4-[(4′-methyl-biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-pentanecarboxylate-hydrobromide
Prepared from 4′-methyl-biphenyl-2-carboxylic acid-piperidin-4-ylamide and methyl 5-bromo-2-ethyl-2-phenyl-pentanecarboxylate.

reactant | 4′-methyl-biphenyl-2-carboxylic acid-piperidin-4-ylamide | N1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C | C19H22N2O
reactant | methyl 5-bromo-2-ethyl-2-phenyl-pentanecarboxylate | BrCCCC(CC(=O)OC)(C1=CC=CC=C1)CC | C15H21BrO2
product | methyl 2-ethyl-2-phenyl-5-{4-[(4′-methyl-biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-pentanecarboxylate-hydrobromide | Br.C(C)C(CC(=O)OC)(CCCN1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C)C1=CC=CC=C1 | InChI=1S/C34H42N2O3.BrH/c1-4-34(25-32(37)39-3,28-11-6-5-7-12-28)21-10-22-36-23-19-29(20-24-36)35-33(38)31-14-9-8-13-30(31)27-17-15-26(2)16-18-27;/h5-9,11-18,29H,4,10,19-25H2,1-3H3,(H,35,38);1H
